US07887721B2
1 mol nickel nitrate, 1 mole manganese nitrate, and 1 mol cobalt nitrate were dissolved in 750 ml deionized water to prepare 4 mol/L solution, and 1500 ml NaOH aqueous solution of 4 mol/L was slowly added under stirring. The temperature of the solution was controlled at 50° C. After stirring for 8 hours, the precipitate was filtered and dried at 120° C. for 10 hours to yield nickel-manganese-cobalt hydroxide Ni1/3Mn1/3Co1/3(OH)2. 1.05 mols LiNO3 was dissolved in 220 ml deionized water, and after LiNO3 was completely dissolved, 1 mol Ni1/3Mn1/3Co1/3(OH)2 precursor was added. After slowly removing water by evaporation at 65° C. under stirring, in a muffle furnace the first-stage sintering was carried at 650° C. in oxygen atmosphere for 4 hours. The obtained product of the first-stage sintering was pulverized and then 200 g polytetrafluoroethylene aqueous solution containing 9 g polytetrafluoroethylene was added. After uniformly mixing, in the muffle furnace the second-stage sintering was carried out at 800° C. in oxygen atmosphere for 15 hours. After sintering, the material was cooled along with the furnace, and then pulverized by ball milling and passed through a 300 mesh screen to yield the final product LiNi1/3Mn1/3Co1/3O2.

reactant | nickel nitrate | 1 mol | [N+](=O)([O-])[O-].[Ni+2].[N+](=O)([O-])[O-]
reactant | manganese nitrate | 1 mole | [N+](=O)([O-])[O-].[Mn+2].[N+](=O)([O-])[O-]
reactant | cobalt nitrate | 1 mol | [N+](=O)([O-])[O-].[Co+2].[N+](=O)([O-])[O-]
reactant | NaOH | 1500 ml | [OH-].[Na+]
solvent | water | O | H2O
product | nickel-manganese-cobalt hydroxide | [OH-].[Co+2].[Mn+2].[Ni+2].[OH-].[OH-].[OH-].[OH-].[OH-] | InChI=1S/Co.Mn.Ni.6H2O/h;;;6*1H2/q3*+2;;;;;;/p-6
